US05958942
2-[4-(Amino)butan-1-ylthio]-3-methyl-1,4,7b-triazacyclopent[cd]indene
To a suspension of 3.90 g (10.0 mmol) of 3-methyl-[4-(phthalimido)butan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene in 70 ml of ethanol was added 1.50 g (30.0 mmol) of hydrazine monohydrate. The mixture was heated for 2 hours under reflux. After cooling the resulting precipitates were filtered off. The filtrate was concentrated to give the residue, water was added, extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, then the solvent was distilled off to give 1.89 g of the desired compound (72.7%, pale brown solid)

reactant | 3-methyl-[4-(phthalimido)butan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | 10.0 mmol, 3.90 g | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCN2C(C=3C(C2=O)=CC=CC3)=O | C21H18N4O2S
reactant | hydrazine monohydrate | 30.0 mmol, 1.50 g | O.NN
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-[4-(Amino)butan-1-ylthio]-3-methyl-1,4,7b-triazacyclopent[cd]indene | 1.89 g, 72.7% | NCCCCSC1=NC2=CC=CC=3N2C1=C(N3)C | C13H16N4S
